US04963566
1,4-Dimethyl-8-(2-benzimidazolyl)thiomethyl-1,2-dihydroquinoline (0.4 g) was dissolved in dichloromethane (30 ml). To this solution was added dropwise a solution of m-chloroperbenzoic acid (0.27 g) in dichloromethane (5 ml) at -40° C. with stirring. After the mixture was stirred for 20 minutes at the same temperature, the reaction mixture was washed with an aqueous solution of sodium carbonate and extracted with dichloromethane. The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off. Diethyl ether was added to the resulting residue to precipitate crystals. The resulting crystals were recrystallized from dichloromethane-diethyl ether to give 1,4-dimethyl-8-(2-benzimidazolyl)sulfinylmethyl-1,2-dihydroquinoline (0.2 g).

reactant | 1,4-Dimethyl-8-(2-benzimidazolyl)thiomethyl-1,2-dihydroquinoline | 0.4 g | CN1CC=C(C2=CC=CC(=C12)CSC=1NC2=C(N1)C=CC=C2)C | C19H19N3S
reactant | m-chloroperbenzoic acid | 0.27 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1,4-dimethyl-8-(2-benzimidazolyl)sulfinylmethyl-1,2-dihydroquinoline | 0.2 g | CN1CC=C(C2=CC=CC(=C12)CS(=O)C=1NC2=C(N1)C=CC=C2)C | C19H19N3OS
